US08084484B2
f) 2-(2-Thioxo-2,3-dihydro-benzothiazol-6-yl)-propionic acid
To a stirred solution of 2-(2-Thioxo-2,3-dihydro-benzothiazol-6-yl)-propionic acid ethyl ester (587 mg) in THF (4 mL) and H2O (4 mL) was added NaOH (229 mg) at room temperature. After stirred for 14 h at room temperature, the reaction mixture was acidified with AcOH (pH=4) and diluted with water. The resulting mixture extracted with dichloromethane and the combined organic layer was dried magnesium sulfate, filtered and concentrated in vacuo. (511 mg, 97%, pale yellow solid)

reactant | 2-(2-Thioxo-2,3-dihydro-benzothiazol-6-yl)-propionic acid ethyl ester | 587 mg | C(C)OC(C(C)C1=CC2=C(NC(S2)=S)C=C1)=O | C12H13NO2S2
reactant | NaOH | 229 mg | [OH-].[Na+]
reactant | AcOH | pH=4 | CC(=O)O | C2H4O2
solvent | THF | 4 mL | C1CCOC1 | C4H8O
solvent | H2O | 4 mL | O | H2O
product | 2-(2-Thioxo-2,3-dihydro-benzothiazol-6-yl)-propionic acid | S=C1SC2=C(N1)C=CC(=C2)C(C(=O)O)C | C10H9NO2S2
